US05849769
N-[(3-Fluoro-4-iodopyrid-2-yl)eth-2-yl]-2,5-dimethylpyrrole
A dry 250 ml 3-neck roundbottom flask equipped with a thermometer, rubber septum, magnetic stirrer, and nitrogen inlet was charged with 30 ml of anhydrous tetrahydrofuran and 2.1 ml (14.67 mmole) of dry diisopropylamine. The stirring solution was cooled to -78° C. afterwhich 9.5 ml (15.11 mmole) of 1,6 n-butyllithium in hexanes was added over 10 minutes by syringe. The solution was stirred 30 minutes longer and 3.2 g (14.67 mmole) of N-[(3-Fluoropyrid-2-yl)eth-2-yl]-2,5-dimethylpyrrole in 30 ml of dry tetrahydrofuran was added dropwise via syringe over 30 minutes, keeping the internal temperature below -65° C. After stirring 30 minutes longer, a solution of 4.0 g (15.80 mmole) of iodine in 30 ml of dry tetrahydrofuran was added by canula over 10 minutes. The mixture was warmed to room temperature (a color change, quenching, occurred at -30° C.) and stirred overnight under nitrogen. The solution was diluted to 200 ml with ethyl ether, extracted with aqueous saturated sodium bicarbonate (1×), brine (1×), and dried over sodium sulfate. Filtration and concentration gave a dark solid which was purified by flash silica gel chromatography (20% ethyl acetate in hexanes) to give the titled compound as a white solid, 3.9 g (77%): mp 156°-158° C.; IR (KBr, cm-1) 3000, 2950, 1574, 1408, 752; 1H NMR (300 MHz, DMSO-d6) δ 8.05 (d, 1H), 7.85 (t, 1H), 5.60 (s, 2H), 4.05 (t, 2H), 3.00 (dt, 2H), 2.10 (s, 6H); MS (FD) m/e 344 (Mt). Anal. Calc'd. for C13H14FIN2 : C, 45.37; H, 4.10; N, 8.14. Found: C, 45.07; H, 4.03; N, 8.06.

reactant | diisopropylamine | 14.67 mmole, 2.1 ml | C(C)(C)NC(C)C | C6H15N
reactant | N-[(3-Fluoropyrid-2-yl)eth-2-yl]-2,5-dimethylpyrrole | 14.67 mmole, 3.2 g | FC=1C(=NC=CC1)C(C)N1C(=CC=C1C)C | C13H15FN2
reactant | iodine | 15.80 mmole, 4.0 g | II | I2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-[(3-Fluoro-4-iodopyrid-2-yl)eth-2-yl]-2,5-dimethylpyrrole | FC=1C(=NC=CC1I)C(C)N1C(=CC=C1C)C | C13H14FIN2
